US05922743
2-(4-aminophenyl)-4-(4-methylphenyl)-6-phenylpyridine (Compound 28)
The following compound was obtained substantially in the same manner as above, using a corresponding pyridine derivative having an acetamide group in place of 2-(4-acetamidophenyl)-4-(4-methylphenyl)-6-phenylpyridine.

reactant | 2-(4-acetamidophenyl)-4-(4-methylphenyl)-6-phenylpyridine | C(C)(=O)NC1=CC=C(C=C1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C26H22N2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(4-aminophenyl)-4-(4-methylphenyl)-6-phenylpyridine | NC1=CC=C(C=C1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C24H20N2
